US06541521B1
In a manner similar to that described in Example 3, 4-(4-bromo-phenyl)-butyryl chloride (0.086 g, 0.00033 mol) was allowed to react with 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester (0.052 g, 0.00025 mol), and the resulting intermediate was hydrolyzed to give 0.089 g of 4-{4-[4-(4-bromo-phenyl)-butyrylamino]-phenyl}-4-oxo-butyric acid as a yellow solid; MS-(AP+) MH+419.

reactant | 4-(4-bromo-phenyl)-butyryl chloride | 0.00033 mol, 0.086 g | BrC1=CC=C(C=C1)CCCC(=O)Cl | C10H10BrClO
reactant | 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester | 0.00025 mol, 0.052 g | NC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H13NO3
product | 4-{4-[4-(4-bromo-phenyl)-butyrylamino]-phenyl}-4-oxo-butyric acid | 0.089 g | BrC1=CC=C(C=C1)CCCC(=O)NC1=CC=C(C=C1)C(CCC(=O)O)=O | C20H20BrNO4
